US07060822B1
4-(2-Chloroacetyl)-3,5-dimethylpyrrole-2-carboxaldehyde
Anhydrous aluminum chloride (42 g, 315 mmol) was added portionwise over 30 min to a room temperature solution of 3,5-dimethylpyrrol-2-carboxaldehyde (5 g, 40 mmol) in 1,2-dichloroethane (50 ml) under nitrogen. After stirring for 15 min, chloroacetyl chloride (17 g, 150 mmol) was added dropwise over 1 h. After addition was complete, the mixture was stirred at room temperature for 16 h. The mixture was poured onto crushed ice and the organic layer separated, dried over anhydrous sodium sulfate, and the solvent removed under reduced pressure. Yield 57%, m.p. 205–09° C. (toluene).

reactant | aluminum chloride | 315 mmol, 42 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3,5-dimethylpyrrol-2-carboxaldehyde | 40 mmol, 5 g | CC1=C(NC(=C1)C)C=O | C7H9NO
reactant | chloroacetyl chloride | 150 mmol, 17 g | ClCC(=O)Cl | C2H2Cl2O
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 4-(2-Chloroacetyl)-3,5-dimethylpyrrole-2-carboxaldehyde | Yield 57% | ClCC(=O)C=1C(=C(NC1C)C=O)C | C9H10ClNO2
